
*74LS20 MCE Nodes: A,B,C,D,Y
*MCE mixed-mode 4-input NAND gate pkg:DIP14 (A:1,2,4,5,6)(B:9,10,12,13,8)
.SUBCKT X74LS20 1 2 3 4 5
BNLVs1 6 0 V=~(V(1) & v(2) & v(3) & v(4))
R1 6 5 1
C1 5 0 .004uF IC=0V
.ENDS X74LS20

*74LS40 MCE Nodes: A,B,C,D,Y
*MCE mixed-mode 4-input NAND gate pkg:DIP14 (A:1,2,4,5,6)(B:9,10,12,13,8)
.SUBCKT X74LS40 1 2 3 4 5
BNLVs1 6 0 V=~(V(1) & v(2) & v(3) & v(4))
R1 6 5 1
C1 5 0 .004uF IC=0V
.ENDS X74LS40
