
*74LS02 MCE Nodes: A,B,Y
*MCE mixed-mode 2-input NOR gate pkg:DIP14 (A:3,2,1)(B:5,6,4)(C:8,9,10)(D:11,12,13)
.SUBCKT X74LS02 3 4 5
BNLVs1 1 0 V=~(V(3) | v(4))
R1 1 5 1
C1 5 0 .004uF IC=0V
.ENDS X74LS02

*7428 MCE Nodes: A,B,Y
*MCE mixed-mode 2-input NOR gate pkg:DIP14 (A:3,2,1)(B:5,6,4)(C:8,9,10)(D:11,12,13)
.SUBCKT X7428 3 4 5
BNLVs1 1 0 V=~(V(3) | v(4))
R1 1 5 1
C1 5 0 .004uF IC=0V
.ENDS X7428
