*Generic D Flip-Flop MCE Nodes: D,CP,QN,Q
*MCE mixed-mode D Flip-Flop
.SUBCKT XDFF 6 5 3 4
XU1 9 3 4 7400
XU2 4 7 3 7400
XU3 6 5 9 7400
XU4 5 8 7 7400
XU5 6 8 7404
.IC V(3)=0V V(4)=4.5V
.ENDS XDFF
