*MC1496 MCE 1-31-96
*Balanced Modulator/Demodulator
*Nodes: GainAdj Vc Vc Vs Vs Vee Bias Out Out GainAdj
*Motorola/MCE Balanced Modulator/Demod pkg:DIP14 pkg:SO-14
.SUBCKT XMC1496 3 11 10 9 8 7 6 4 5 2
Q1 3 6 14 QNPN
Q2 15 9 3 QNPN
Q3 4 11 15 QNPN
Q4 5 11 16 QNPN
Q5 5 10 15 QNPN
Q6 16 8 2 QNPN
Q7 2 6 13 QNPN
Q8 4 10 16 QNPN
D1 6 12 DDIODE
R1 7 12 500
R2 7 13 500
R3 7 14 500
.MODEL QNPN  NPN()
.MODEL DDIODE  D()
.ENDS XMC1496
